US03966713
750 mg. of 17α-ethinyl-11β-fluoro-17β-hydroxy-4,6-androstadien-3-one in 50 ml. of ethylene chloride is combined with 1.2 g. of m-chloroperbenzoic acid in 5 ml. of tert.-butanol and 1 ml. of ethylene chloride. The mixture is agitated at room temperature for 21 hours. The solution is then diluted with ethyl acetate and washed successively with sodium bisulfite solution and water. In this way, 420 mg. of 17α-ethinyl-6α,7α-epoxy-11β-fluoro-17β-hydroxy-4-androsten-3-one is isolated. UV: ε239 = 16,300 (methanol).

reactant | 17α-ethinyl-11β-fluoro-17β-hydroxy-4,6-androstadien-3-one | C(#C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1C=CC3=CC(CC[C@]3(C)[C@H]1[C@H](C2)F)=O)O | C21H25FO2
reactant | ethylene chloride | C(CCl)Cl | C2H4Cl2
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | tert.-butanol | C(C)(C)(C)O | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17α-ethinyl-6α,7α-epoxy-11β-fluoro-17β-hydroxy-4-androsten-3-one | C(#C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1[C@H]3[C@@H](C4=CC(CC[C@]4(C)[C@H]1[C@H](C2)F)=O)O3)O | C21H25FO3
